US06002008
4-(3-Bromo-phenylamino)-7-ethoxy-6-nitro-quinoline-3-carbonitrile
A mixture of 2.1 g (7.6 mmol) of 4-chloro-7-ethoxy-6-nitro-3-quinolinecarbonitrile and 0.91 ml (8.3 mmol) of 3-bromo aniline in 100 ml ethanol was refluxed under nitrogen for 4.5 hours. The reaction mixture was poured into diluted sodium bicarbonate solution. Ethanol was removed under vacuum. The mixture was diluted with ethyl acetate and the organic layer was separated and dried over sodium sulfate. The solution was concentrated and solid was collected and then washed with hexane. Upon drying, 2.6 g of yellow solid obtained: mass spectrum (electrospray, m/e) M+H 412.8 and 414.9.

reactant | 4-chloro-7-ethoxy-6-nitro-3-quinolinecarbonitrile | 7.6 mmol, 2.1 g | ClC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OCC)C#N | C12H8ClN3O3
reactant | 3-bromo aniline | 8.3 mmol, 0.91 ml | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(3-Bromo-phenylamino)-7-ethoxy-6-nitro-quinoline-3-carbonitrile | 2.6 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)[N+](=O)[O-])OCC)C#N | C18H13BrN4O3
